US09212187B2
Synthesis of N-Methyl-3-[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propylamino]-N-o-tolyl-propionamide
6-(3-Amino-propoxy)-1-methyl-1H-quinolin-2-one(194 mg) was added to an ethanol solution (5 ml) of N-methyl-N-o-tolyl-acrylamide(146 mg). The mixture was stirred at room temperature overnight. The reaction mixture was condensed under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane: methanol=20:1→10:1). The purified product was condensed under reduced pressure to give the title compound(172.6 mg) as a colorless oil.

reactant | 6-(3-Amino-propoxy)-1-methyl-1H-quinolin-2-one | 194 mg | NCCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C13H16N2O2
reactant | N-methyl-N-o-tolyl-acrylamide | 146 mg | CN(C(C=C)=O)C1=C(C=CC=C1)C | C11H13NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-Methyl-3-[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propylamino]-N-o-tolyl-propionamide | 172.6 mg | CN(C(CCNCCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O)C1=C(C=CC=C1)C | C24H29N3O3
